US05998437
To 926 mg of 5-methoxyindole was added 30 ml of dimethylformamide and 230 mg of sodium hydride (in oil), this mixture was stirred under nitrogen gas stream at 60° C. for 1 hour. Then 1.5 g of 1-(3-chloropropyl)-5-nitroindole was added to the reaction mixture and stirred at room temperature overnight. The reaction mixture was further stirred at 60° C. for 5.5 hours, then water was added thereto, and the crystals being separated were collected by filtration, and washed with water. The washed crystals were subjected to a silica gel column chromatography (eluent: dichloromethane), there was obtained 1.8 g of 1-[3-(5-methoxyindol-1-yl)propyl]-5-nitroindole as in the form of yellow powdery product.

reactant | 5-methoxyindole | 926 mg | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 230 mg | [H-].[Na+]
reactant | 1-(3-chloropropyl)-5-nitroindole | 1.5 g | ClCCCN1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C11H11ClN2O2
solvent | water | O | H2O
product | 1-[3-(5-methoxyindol-1-yl)propyl]-5-nitroindole | 1.8 g | COC=1C=C2C=CN(C2=CC1)CCCN1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C20H19N3O3
